US08431586B2
Step 1: tert-butyl {(1R,2S)-2-[(2-{[(2-methoxyethyl)amino]carbonyl}-6-methylquinazolin-4-yl)amino]cyclohexyl}carbamate
To a suspension of 15.0 g of ethyl 4-({(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino-6-methylquinazolin-2-carboxylate in 15 ml of methanol, 7.89 g of 2-methoxyethylamine was added, and the mixture was stirred at 50° C. for 15 hours. After the reaction solution was cooled to room temperature, 45 ml of diisopropyl ether was added thereto, and the mixture was stirred at 0° C. for 30 minutes. The deposited crystal was collected by filtration, washed with diisopropyl ether and dried under reduced pressure, whereby 12.2 g of a desired compound was obtained as a white powder.

reactant | {(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino-6-methylquinazolin-2-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)[O-]
reactant | 2-methoxyethylamine | 7.89 g | COCCN | C3H9NO
reactant | diisopropyl ether | 45 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 15 ml | CO | CH4O
product | tert-butyl {(1R,2S)-2-[(2-{[(2-methoxyethyl)amino]carbonyl}-6-methylquinazolin-4-yl)amino]cyclohexyl}carbamate | 12.2 g | COCCNC(=O)C1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)C | C24H35N5O4
